US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (40.8 mg, 0.0993 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with 1-(2-cyanoethyl)piperazine (59.8 mg, 0.430 mmol), acetic acid (0.115 mL, 2.01 mmol) and sodium triacetoxyborohydride (74.3 mg, 0.351 mmol). The reaction mixture was added with water and sodium carbonate to adjust the pH to 9. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-{1-(tert-butoxycarbonyl)-5-[4-(2-cyanoethyl)piperazin-1-ylmethyl]indol-2-yl}isoindolinone (53.0 mg, yield 100%).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0993 mmol, 40.8 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | 1-(2-cyanoethyl)piperazine | 0.430 mmol, 59.8 mg | C(#N)CCN1CCNCC1 | C7H13N3
reactant | acetic acid | 2.01 mmol, 0.115 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.351 mmol, 74.3 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-chloro-7-{1-(tert-butoxycarbonyl)-5-[4-(2-cyanoethyl)piperazin-1-ylmethyl]indol-2-yl}isoindolinone | 53.0 mg, yield 100% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCC#N)C(=O)OC(C)(C)C)=O | C29H32ClN5O3
